US05187159
Step A: Preparation of Ethyl 5-methyl-2-phenyl-1,3-benzodioxole-2-carboxylate (scheme II-1, compound 1b where X=O)
To a solution of ethyl benzoylformate (520 mg, 2.92 mmoL) in dry benzene 5 mL) was added PCl5 (608 mg, 1.0 equiv). After stirring at reflux for 16 h TLC analysis indicated that all the starting material appeared consumed. The solvent was removed in vacuo and the crude dichloride (Rf=0.61 6:1 hexane/ethyl acetate) was mixed with 4-methyl-catechol (724 mg 2.0 equiv) and heated to 175° C. until HCl evolution ceased (ca. 20 min). The mixture was cooled to rt and the glue-like material was dissolved in diethyl ether and washed several times with 1N NaOH and then brine. The organic was dried over anhydrous MgSO4 and concentrated in vacuo and the residue was chromatographed on a silica column eluting with hexane/ethyl acetate (20:1). Removal of the solvent afforded 130 mg (16%) of the titled compound. Rf=0.57 (6:1 hexane/ethyl acetate).

reactant | ethyl benzoylformate | 520 mg | C(C1=CC=CC=C1)(=O)C(=O)OCC | C10H10O3
reactant | PCl5 | 608 mg, 1.0 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-methyl-catechol | 724 mg, 2.0 equiv | CC=1C=C(C(O)=CC1)O | C7H8O2
reactant | HCl | Cl | ClH
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 5-methyl-2-phenyl-1,3-benzodioxole-2-carboxylate | 130 mg, 16% | CC1=CC2=C(OC(O2)(C(=O)OCC)C2=CC=CC=C2)C=C1 | C17H16O4
